US08859577B2
1-Benzyl-1′H-spiro[piperidine-4,5′-pyrano[3,2-c]pyrazol]-7′(6′H)-one (204 mg, 0.67 mmol) was dissolved in 10 mL tetrahydrofuran. 2-propanol (0.11 mL, 1.37 mmol) and polymer supported triphenylphosphine (0.5 g, 3 mmol/g loading) were added followed by addition of DBAD (322 mg, 1.37 mmol) and stirred at ambient temperature for 5 days. Filtered off polymer supported triphenyl phosphine and washed filtercake with 100 mL ethyl acetate. The filtrate was concentrated and the resultant yellow oil was treated with 10 mL 4N HCl/dioxane. The mixture was stirred 1 h at ambient temperature. The volatiles were removed under reduced pressure. The resultant sludge was partitioned between 50 mL sat aq. sodium bicarbonate and 50 mL ethyl acetate. The organic phase was dried over sodium sulfate, filtered and concentrated under reduced pressure. The resultant oil was flash chromatographed (30-100% ethyl acetate/heptane gradient, 10 g silica) to yield 90 mg (35%) of 1-benzyl-1′-isopropyl-1′H-spiro[piperidine-4,5′-pyrano[3,2-c]pyrazol]-7′(6′H)-one as a pale yellow solid. 1H NMR (400 MHz, CDCl3) δ ppm 7.30 (m, 3H), 7.24 (m, 2H), 7.18 (s, 1H), 5.14 (spt, 1H), 3.52 (s, 2H), 2.60 (m, 4H), 2.41 (td, J=11.6, 2.5 Hz, 2H), 2.06 (d, J=12.5 Hz, 2H), 1.71 (m, 2H), 1.44 (m, 6H): m/z (M+1)=340.5.

reactant | 1-Benzyl-1′H-spiro[piperidine-4,5′-pyrano[3,2-c]pyrazol]-7′(6′H)-one | 0.67 mmol, 204 mg | C(C1=CC=CC=C1)N1CCC2(CC(C=3NN=CC3O2)=O)CC1 | C17H19N3O2
reactant | 2-propanol | 1.37 mmol, 0.11 mL | CC(C)O | C3H8O
reactant | triphenylphosphine | 0.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DBAD | 1.37 mmol, 322 mg | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-benzyl-1′-isopropyl-1′H-spiro[piperidine-4,5′-pyrano[3,2-c]pyrazol]-7′(6′H)-one | 90 mg, 35% | C(C1=CC=CC=C1)N1CCC2(CC(C=3N(N=CC3O2)C(C)C)=O)CC1 | C20H25N3O2
